Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman with anxiety, depression, urinary incontinence s/p 
pelvis stimulator, and recent hospitalization for diarrhea and 
UTI, who p/w abdominal pain and bloating. The pt was admitted to 
___ in the end of ___ for diarrhea and UTI and 
was then discharged to ___. For the past week she 
has had worsening abdominal pain and has not had a BM for 3 days 
despite taking senokot and dulcolax. She is passing gas. The 
abdominal pain is diffuse, but worse in the lower abdomen and 
radiates to the left flank. Appetite is good and she has been 
eating/drinking normally. No fevers/chills, N/V, melena, or 
hematochezia. She notes increased urinary frequency and it feels 
"hot" when she urinates. 

In the ED inital vitals were: 97.4, 102, 117/89, 22, 98%RA. In 
triage she reported a "fluttering" sensation in her chest that 
radiated down her left arm. She had a similar sensation during 
the ___ admission but reports that a stress test was normal. 
An EKG in the ED showed sinus rhythm w/o ST/T changes. Troponin 
nml. She later became unresponsive for a period of minutes which 
spontaneously resolved, no airway compromise, pt does not 
remember any details. Labs were notable for lactate 2.9, Mg 1.5, 
nml trop, nml lipase and LFTs. She was given ASA 325mg, 
magnesium sulfate 4g, morphine 4mg IV x2. 

ROS: As noted above. Denies headache, dizziness, dysphagia, 
current CP, SOB, palpitations, nausea, vomiting, arthralgias, or 
rash. She does report a "tingling" sensation in her hands and 
feet.
 
Past Medical History:
1. anxiety  
2. depression  
3. OCD  
4. urinary incontinence s/p pelvic stimulator  
5. stocking/glove peripheral neuropathy ___ a "nervous 
breakdown" at work)  
6. dermatoid ovarian tumors s/p TAH/BSO  
7. irritable bowel syndrome  
8. GERD
9. s/p cholecystectomy ___ 
 
Social History:
___
Family History:
Father - died last year; prostate CA, DM, HTN, CAD
Mother - has a colostomy (unclear reason)
 
Physical Exam:
ON ADMISSION:
Vitals: 97, 134/96, 80, 16, 94%RA  
General: Tired, uncomfortable when moving 
HEENT: NC/AT, EOMI, no incterus, +white plaques on tongue, no 
oral lesions, MMM
Neck: Supple, no JVD, no LAD, no thyromegaly
Lungs: CTAB  
CV: RRR, nml S1/S2, no M/R/G
Abdomen: NABS, soft, distended but no shifting dullness, TTP 
diffusely but worse in lower abdomen bilaterally, no 
guarding/rebound, unable to assess for hepatosplenomegaly  
Back: +TTP in left flank, no spinal tenderness
Extrem: warm, dry no edema  
 
Pertinent Results:
ADMISSION LABS:

___ 08:29PM BLOOD WBC-9.7 RBC-5.06 Hgb-15.1 Hct-44.3 
MCV-87# MCH-29.8# MCHC-34.1 RDW-13.8 Plt ___
___ 08:29PM BLOOD Glucose-118* UreaN-7 Creat-0.8 Na-139 
K-4.3 Cl-100 HCO3-27 AnGap-16
___ 08:29PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD cTropnT-<0.01

DISCHARGE LABS:

___ 07:15AM BLOOD WBC-5.4 RBC-4.82 Hgb-14.5 Hct-42.4 MCV-88 
MCH-30.0 MCHC-34.1 RDW-13.7 Plt ___
___ 07:15AM BLOOD Glucose-125* UreaN-4* Creat-0.5 Na-140 
K-4.5 Cl-102 HCO3-32 AnGap-11
___ 07:15AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.7

RADIOLOGY STUDIES:
CT TORSO:
1. No acute cardiopulmonary process, including no pulmonary 
embolus, acute 
aortic syndrome, or pneumonia. Minimal dependent atelectasis is 
noted. 
2. No acute intra-abdominal process. There is sigmoid and left 
colonic 
diverticulosis, without evidence of diverticulitis or colitis. 
No abscess, 
free fluid or free air. 

CT HEAD:
No acute intracranial process, and no change from ___.
 
Brief Hospital Course:
___ yo woman with anxiety/depression, recent admission for 
colitis and UTI, who p/w abdominal pain/bloating in the setting 
of 3 days w/o a BM. Noted to have chest "fluttering" in the ED 
and an question of unresponsive episode. 

# CONSTIPATION/ABDOMINAL PAIN: Abdominal pain likely related to 
constipation. Patient started on miralax, docusate, bisacodyl, 
senna. She had BM after enema. In ED she did have CT abd/pelvis 
that showed diverticulosis no evidence of any acute process. In 
order to maintain regular bowel movements would suggest a high 
fiber diet, at least 1L of fluids per day and daily miralax and 
docusate. Would avoid senna, suppositories and other medications 
that cause urgency. Suspect that patient's multiple 
depression/anxiety meds could also be contributing to 
constipation symptoms and might be beneficial having her see her 
pscyhiatrist to discuss less constipating options.

# ATYPICAL CHEST PAIN: Likely represented anxiety. No e/o 
ischemia on ECG and neg troponins x 2. No further medical 
work-up suggested.

# Unresponsive Episode: This was unwitnessed. Pt unable to 
recall details of this event. Head CT was negative. Normal 
neurologic exam. No further episodes during this 
hospitalization.

# Peripheral Neuropathy: Continued gabapentin. As per last outpt 
neurology note, you can continue to titrate up as patient 
tolerates to as high as 

# Anxiety/depression: Continue home meds but schedule pt to f/u 
with outpt pyschiatrist or whomever prescribes psych meds to 
discuss changing to meds with fewer constipating side effects.

FULL CODE
FULLY ORIENTED 
 
Medications on Admission:
1. Fluvoxamine 50 mg daily  
2. Imipramine 50 mg daily  
3. Duloxetine 60 mg daily  
4. Neurontin 500 mg TID  
5. Vicodin PRN  
6. Xanax 0.25 TID  
7. Ambien 10 mg qhs  
8. Ibuprofen 600 mg BID  
9. Hydroxyzine 25 mg daily  
10. Prilosec  
 
Discharge Medications:
1. fluvoxamine 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. imipramine HCl 25 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
5. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.  
6. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.  
7. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
8. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for pain, headache.  
9. hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO once a 
day.  
10. Prilosec  Oral
11. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Constipation, Atypical Chest Pain
SECONDARY: Anxiety, Depression, Peripheral Neuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital because you were having 
abdominal pain. We believe your abdominal pain may have been 
related to constipation. You were able to move your bowels while 
you were in the hospital. You did have a CT scan of your abdomen 
which was normal. You were seen by physical therapy who 
recommend that you return to rehab.

NEW MEDICATIONS:
Miralax daily
Docusate sodium daily
 
Followup Instructions:
___